US05637593
N,N,N',N'-Tetramethyldiaminomethane (0.29 g, 0.39 mL, 2.82 mmol) was dissolved in CH2Cl2 (dry; 8.5 mL) and the stirred solution cooled in an ice-bath. Acetyl chloride (0.23 g, 0.21 mL, 2.95 mmol) was added dropwise (syringe) over 10 min, to give a white suspension. After stirring for a further 20 min. with cooling maintained, a solution of 5-(4-methoxyphenoxy)indole (0.5 g, 2.09 mmol) in CH2Cl2 (7.2 mL) was added dropwise, over 20 min. The cooling was removed and the resulting clear solution was stirred for 1 hr at room temperature. The solution was then diluted with CH2Cl2, washed with 10% aq. NaOH (2×) followed by saturated aqueous NACl and dried (MgSO4). Evaporation in vacuo gave 3-(N,N-dimethylaminomethyl)-5-(4-methoxyphenoxy)indole as a gum. This material was dissolved in DMF (dry; 7 mL) and potassium cyanide (0.52 g, 8.0 mmol) was added, followed by methyl iodide (1.19 g, 0.52 mL, 8.35 mmol). The mixture became cloudy and eventually opaque. After stirring at room temperature for 36 hr, water was added and the mixture was extracted with Et2O (2×). The combined organic layers were washed with H2O (2×) and then with saturated aqueous NaCl, dried (MgSO4) and evaporated to give an almost colourless gum. This was triturated with Et2O to give: 3-cyanomethyl-5-(4-methoxyphenoxy)indole as a virtually colourless solid, 0.334 g (57%).

reactant | N,N,N',N'-Tetramethyldiaminomethane | 2.82 mmol, 0.39 mL, 0.29 g | CN(C)CN(C)C | C5H14N2
reactant | Acetyl chloride | 2.95 mmol, 0.21 mL, 0.23 g | C(C)(=O)Cl | C2H3ClO
reactant | 5-(4-methoxyphenoxy)indole | 2.09 mmol, 0.5 g | COC1=CC=C(OC=2C=C3C=CNC3=CC2)C=C1 | C15H13NO2
solvent | CH2Cl2 | 8.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7.2 mL | C(Cl)Cl | CH2Cl2
product | 3-(N,N-dimethylaminomethyl)-5-(4-methoxyphenoxy)indole | CN(C)CC1=CNC2=CC=C(C=C12)OC1=CC=C(C=C1)OC | C18H20N2O2
